US20010020034A1
To a mixture of (4-carbamoyl-3-mercapto-isothiazol-5-yl)-carbamic acid phenyl ester (0.075 g, 0.25 mmol) in 0.5 mL of DMF was added 4-methylbenzylchloride (0.036 g, 0.25 mmol), followed by N,N-diisopropylethylamine (0.033 g, 0.25 mmol). After stirring for 18 hours at ambient temperature, tetrahydrofuran (1 mL) was added, followed by 3-chloro-4-fluorobenzylamine (0.081 g, 0.51 mmol). After stirring for 24 hours at 45° C., the mixture was diluted with 1M HCl, extracted 3× with ethyl acetate, and the combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by radial chromatography on silica gel eluting with ethyl acetate-hexane, affording 26 mg of 5-[3-(3-chloro-4-fluoro-benzyl)-ureido]-3-(4-methyl-benzylsulfanyl)-isothiazole-4-carboxylic acid amide as a colorless solid. HPLC ret. time: 4.9 minutes. 1H NMR (400 MHz, acetone-d6) δ 7.95 (bs, 1H), 7.54 (dd, 1H, J=2, 7.2 Hz), 7.39 (m, 1H), 7.31-7.25 (m, 3H), 7.11 (d, 2H, J= 8.0 Hz), 7.01 (bs, 2H), 4.48 (m, 4H), 2.28 (s, 3H) ppm; MS (APCl, m/z): 465 [M+H]+.

reactant | (4-carbamoyl-3-mercapto-isothiazol-5-yl)-carbamic acid phenyl ester | 0.25 mmol, 0.075 g | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)S)C(N)=O)=O | C11H9N3O3S2
reactant | 4-methylbenzylchloride | 0.25 mmol, 0.036 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
reactant | N,N-diisopropylethylamine | 0.25 mmol, 0.033 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-chloro-4-fluorobenzylamine | 0.51 mmol, 0.081 g | ClC=1C=C(CN)C=CC1F | C7H7ClFN
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | HCl | 1M | Cl | ClH
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 5-[3-(3-chloro-4-fluoro-benzyl)-ureido]-3-(4-methyl-benzylsulfanyl)-isothiazole-4-carboxylic acid amide | 26 mg | ClC=1C=C(CNC(NC2=C(C(=NS2)SCC2=CC=C(C=C2)C)C(=O)N)=O)C=CC1F | C20H18ClFN4O2S2
